US08623889B2
To a mixture of N-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide (119.4 mg, 0.3530 mmol), 5-bromo-4-methylpyridin-3-amine (83.7 mg, 0.448 mmol), cesium carbonate (286.6 mg, 0.8796 mmol), and bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (19.2 mg, 0.0271 mmol) was added 1,4-dioxane (4 mL, 50 mmol) and water (0.4 mL, 20 mmol). The reaction was then stirred in a sealed vial at 100° C. for two hours. The reaction mixture was poured into saturated aqueous sodium bicarbonate, and extracted four times with dichloromethane. The combined organic extracts were dried over MgSO4, filtered, and evaporated in vacuo. The crude residue was purified via flash chromatography on silica gel (12 g silica, solvent gradient: 0-15% MeOH in dichloromethane) followed by reverse phase HPLC purification and lyophilization to yield 41.3 mg (37%) of N-(7-(5-amino-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide. LCMS (ESI): RT(min)=2.42, M+H=319.2, method=H; 1H NMR (400 MHz, DMSO-d6) δ 10.90 (s, 1H), 9.18 (s, 1H), 8.49 (s, 1H), 7.98 (s, 2H), 7.91 (d, J=8.5 Hz, 1H), 7.72 (s, 1H), 7.68-7.57 (m, 1H), 5.22 (s, 2H), 2.14-2.03 (m, 1H), 2.01 (s, 3H), 0.85 (dd, J=11.6, 6.1 Hz, 4H).

reactant | N-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.3530 mmol, 119.4 mg | CC1(OB(OC1(C)C)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C19H23BN2O3
reactant | 5-bromo-4-methylpyridin-3-amine | 0.448 mmol, 83.7 mg | BrC=1C(=C(C=NC1)N)C | C6H7BrN2
reactant | cesium carbonate | 0.8796 mmol, 286.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 50 mmol, 4 mL | O1CCOCC1 | C4H8O2
reactant | water | 20 mmol, 0.4 mL | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.0271 mmol, 19.2 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | N-(7-(5-amino-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 41.3 mg, 37% | NC=1C(=C(C=NC1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C19H18N4O
